US05847122
Potassium carbonate is added to dimethyl sulfoxide, and the mixture is stirred at 70° C. The mixture is cooled to room temperature, and thereto is added (2S,3S)-3-(2-aminophenylthio)-2-hydroxy-3-(4-methoxyphenyl)propionamide, and stirred. To the reaction mixture is added dropwise 2-dimethylaminoethyl chloride, and the mixture is stirred at room temperature. The reaction mixture is poured into ice-water, and extracted with ethyl acetate. The extract is dried, and concentrated under reduced pressure to remove the solvent to give (2S,3S)-3-[2-(2-dimethylaminoethylamino)phenylthio]-2-hydroxy-3-(4-methoxyphenyl)-propionamide.

reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | (2S,3S)-3-(2-aminophenylthio)-2-hydroxy-3-(4-methoxyphenyl)propionamide | NC1=C(C=CC=C1)S[C@H]([C@H](C(=O)N)O)C1=CC=C(C=C1)OC | C16H18N2O3S
reactant | 2-dimethylaminoethyl chloride | CN(CCCl)C | C4H10ClN
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | (2S,3S)-3-[2-(2-dimethylaminoethylamino)phenylthio]-2-hydroxy-3-(4-methoxyphenyl)-propionamide | CN(CCNC1=C(C=CC=C1)S[C@H]([C@H](C(=O)N)O)C1=CC=C(C=C1)OC)C | C20H27N3O3S
